US08957049B2
Phenylboronic acid (140 mg, 1.1 mmol, 2.0 eq.) was coevaporated with PhMc twice to produce the anhydride. This was treated with crude 6-hydroxynaphthalene-2-boronic acid pinacol ester (150 mg, 0.56 mmol), DCM (5 mL), NEt3 (400 uL, 3 mmol, 5 eq.), and cupric acetate (100 mg, 0.53 mmol, 0.95 eq.) and stirred at ambient temperature during 16 h. The mixture was extracted from 0.1M NaOH into DCM, dried on Na2SO4, concentrated, and chromatographed on silica gel (0→2% EtOAc/hexanes) to give 6-phenoxynaphthalene-2-boronic acid pinacol ester, which was deprotected via Method 5 to provide compound 216 (54 mg, 37%). [M−H]−=263.1 m/z. Activity: A

reactant | 6-hydroxynaphthalene-2-boronic acid pinacol ester | 0.56 mmol, 150 mg | OC=1C=C2C=CC(=CC2=CC1)B1OC(C)(C)C(C)(C)O1 | C16H19BO3
reactant | NEt3 | 3 mmol, 400 uL, 5 eq. | CCN(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-phenoxynaphthalene-2-boronic acid pinacol ester | O(C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)B1OC(C)(C)C(C)(C)O1 | C22H23BO3
